US08389509B2
A 50 mL round bottom flask was flame dried and cooled under a stream of dry nitrogen. DCM (25 mL) followed by oxalyl chloride (6.79 mL, 13.59 mmol) (2M in DCM) were added to the flask and it was cooled in an acetone/dry ice bath. Dimethyl sulfoxide (1.47 mL, 20.71 mmol) was added dropwise. After 10 minutes, (4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)methanol (2.5 g, 6.47 mmol) was added in small portions over 5-10 minutes providing a pale yellow slurry. After stirring for 5 minutes, DIPEA (9.27 mL, 53.1 mmol) was added dropwise. The cloudy mixture began to clear up, then became cloudy again with the color fading from pale yellow to off-white during the course of the addition. After 5 minutes, the cooling bath was removed and the reaction was allowed to slowly warm to room temperature. After stirring at room temperature for 3 hours the solvents were evaporated and the residue was partitioned between EtOAc (100 mL) and 0.5 N KHSO4 (70 mL). The EtOAc phase was washed with 50 mL each 1N HCl, water, sat. aq. NaHCO3, water and brine, then dried over MgSO4, filtered and evaporated. The solid was slurried in hexanes (with ˜5% EtOAc) with sonication and heating, then cooled to room temperature and filtered. The solids were washed with hexanes, air dried and placed under vacuum to afford 4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde (1.55 g). The compound had an HPLC retention time=2.04 min.−Column: PHENOMENEX® Luna 5u C18 4.6×30 mm (2 min.); Solvent A=10% MeOH, 90% H2O, 0.1% TFA; Solvent B=90% MeOH, 10% H2O, 0.1% TFA. LC/MS M+1=385.17.

reactant | oxalyl chloride | 13.59 mmol, 2M, 6.79 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Dimethyl sulfoxide | 20.71 mmol, 1.47 mL | CS(=O)C | C2H6OS
reactant | (4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)methanol | 6.47 mmol, 2.5 g | C1(=CC=CC=C1)N1N=CC(=C1C(F)(F)F)C1=NC(=NO1)C1=CC=C(C=C1)CO | C19H13F3N4O2
reactant | DIPEA | 53.1 mmol, 9.27 mL | CCN(C(C)C)C(C)C | C8H19N
product | 4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde | 1.55 g | C1(=CC=CC=C1)N1N=CC(=C1C(F)(F)F)C1=NC(=NO1)C1=CC=C(C=O)C=C1 | C19H11F3N4O2
